US06329400B1
To a solution of diisopropylamine (47.1 g, 466.1 mmol) in THF (500 mL) cooled to −50° C. is added n-butyllithium (466.1 mmol, 2.5M in hexanes) and the resulting solution is stirred at −50° C. for 0.5 h. The reaction mixture is cooled to −78° C. followed by slow addition of methyl (3R)-3-hydroxybutanoate (25 g, 211.9 mmol). After 0.5 h a solution of cinnamyl bromide (45.9 g, 233.0 mmol) in HMPA (10 mL) is added and the reaction mixture is allowed to warm to 0° C. and stirred for 16 h. The reaction mixture is quenched by addition 30 mL of saturated aqueous ammonium chloride solution, is poured into 400 mL of 1 N hydrochloric acid, and is extracted with two 500-mL portions of EtOAc. The combined organic layers are dried over magnesium sulfate, concentrated in vacuo, and purified by silica gel chromatography (elution with 25% EtOAc-hexanes) to afford methyl (2R,3R)-2-[(2E)-3-phenyl-2-propen-1-yl]-3-hydroxybutanoate as a yellow oil (42 g, 85% yield).

reactant | diisopropylamine | 466.1 mmol, 47.1 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 466.1 mmol, 2.5M | C(CCC)[Li]
reactant | methyl (3R)-3-hydroxybutanoate | 211.9 mmol, 25 g | O[C@@H](CC(=O)OC)C | C5H10O3
reactant | cinnamyl bromide | 233.0 mmol, 45.9 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | HMPA | 10 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | methyl (2R,3R)-2-[(2E)-3-phenyl-2-propen-1-yl]-3-hydroxybutanoate | 42 g, 85% yield | C1(=CC=CC=C1)/C=C/C[C@@H](C(=O)OC)[C@@H](C)O | C14H18O3
